US09255093B2
To the suspension of 5-methylbenzofuran-2-carboxamide (5.17 g, 29.5 mmol) in 66 mL of anhydrous THF was added TEA (8.23 mL, 59.0 mmol). TFAA (6.25 mL, 44.3 mmol) was added dropwise to the above mixture at 0° C. (internal temperature did not exceed 15° C.). After stirring at 0° C. for 1 hr, the reaction was complete by TLC. The reaction mixture was poured into 610 mL of H2O, and extracted with EtOAc 3 times. The organic layer was washed with sat. NaHCO3, brine and dried over Na2SO4, filtered and concentrated under reduced pressure, and the resulting residue was purified by silica gel flash chromatography, 100% Heptane-8% Ethyl Acetate/92% Heptane, to yield 5-methylbenzofuran-2-carbonitrile (3.65 g). 1H NMR (400 MHz, DMSO-d6) δ 2.42 (s, 3H), 7.42 (dd, J=8.6, 1.8 Hz, 1H), 7.59-7.67 (m, 2H), 8.03 (d, J=0.9 Hz, 1H).

reactant | 5-methylbenzofuran-2-carboxamide | 29.5 mmol, 5.17 g | CC=1C=CC2=C(C=C(O2)C(=O)N)C1 | C10H9NO2
reactant | TFAA | 44.3 mmol, 6.25 mL | C(=O)(C(F)(F)F)OC(=O)C(F)(F)F | C4F6O3
reactant | H2O | 610 mL | O | H2O
solvent | THF | 66 mL | C1CCOC1 | C4H8O
product | 5-methylbenzofuran-2-carbonitrile | 3.65 g | CC=1C=CC2=C(C=C(O2)C#N)C1 | C10H7NO
